US08703922B2
3.0 g (7.7 mmol) of β-D-Glucose pentaacetate and 3.24 g (9.99 mmol) of 5,9,13,17-tetramethyloctadec-4-en-1-ol were dissolved in dry acetonitrile (8 mL). 1.95 mL (15.4 mmol) of boron trifluoride diethyl etherate complex was added to the solution with cooling on ice. The reaction mixture was allowed to warm up slowly to room temperature while being stirred overnight before addition of 3.2 mL (23 mmol) of triethylamine at 0° C. The resulting solution was diluted with ethyl acetate, and washed with water, 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over sodium sulfate. After filtration, the filtrate was concentrated to obtain 1-O-(5,9,13,17-tetramethyloctadec-4-enyl)-D-glucopyranoside tetraacetate as a crude product.

reactant | β-D-Glucose pentaacetate | 7.7 mmol, 3.0 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | 5,9,13,17-tetramethyloctadec-4-en-1-ol | 9.99 mmol, 3.24 g | CC(=CCCCO)CCCC(CCCC(CCCC(C)C)C)C | C22H44O
reactant | triethylamine | 23 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-O-(5,9,13,17-tetramethyloctadec-4-enyl)-D-glucopyranoside tetraacetate | C(C)(=O)O[C@H]1C(OCCCC=C(CCCC(CCCC(CCCC(C)C)C)C)C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C36H62O10
